US04166119
A mixture of 4.2 g of cyclobutylcarbonyl chloride in 10 ml of chloroform is added dropwise to a stirred mixture of 6.0 g of 2,3-dihydrospiro[benzofuran-2,4'-piperidine], Example 7, and 20.0 g of potassium carbonate in 75 ml of chloroform. After total addition, the reaction mixture is successively refluxed for 24 hours, cooled, filtered and poured into water. The biphasic mixture is sequentially washed with 3 N hydrochloric acid, 3 N sodium hydroxide, a saturated sodium chloride solution, dried and the solvent is removed, leaving a solid residue. The residue is recrystallized twice from a benzene-hexane mixture to give the product, 2,3-dihydro-1'-cyclobutylcarbonylspiro[benzofuran-2,4'-piperidine], mp 91°-93° C.

reactant | cyclobutylcarbonyl chloride | 4.2 g | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | 2,3-dihydrospiro[benzofuran-2,4'-piperidine] | 6.0 g | N1CCC2(CC1)OC1=C(C2)C=CC=C1 | C12H15NO
reactant | potassium carbonate | 20.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,3-dihydro-1'-cyclobutylcarbonylspiro[benzofuran-2,4'-piperidine] | C1(CCC1)C(=O)N1CCC2(CC1)OC1=C(C2)C=CC=C1 | C17H21NO2
